US06200254B1
A flask was charged with cyclopentadeca-4E,12E-dien-1-one (0.10 g, 0.45 mmole), ethanol (5 ml) and 5% palladium-on-carbon (0.010 g). The mixture was stirred at room temperature under 1 atm of hydrogen gas for 30 minutes. The reaction mixture was filtered through celite and concentrated to provide crude cyclopentadec-4E-en-1-one (0.09 g, 88% yield). C15H30O (226.41 g/mole). 13CNMR (125 MHz, CDCl3): 21.65, 21.72, 25.85, 26.12, 27.86, 30.57, 31.02, 31.74, 31.82, 42.30, 42.49, 130.08, 132.00, 210.00 ppm. GC analysis indicates product to be a mixture of cyclopentadec-4E-en-1-one (39%), cyclopentadeca-4E,12E-dien-1-one (37%), and cyclopentadecanone (24%).

reactant | cyclopentadeca-4E,12E-dien-1-one | 0.45 mmole, 0.10 g | C1(CC\C=C\CCCCCC\C=C\CC1)=O | C15H24O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.010 g | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | cyclopentadec-4E-en-1-one | 0.09 g, 88% yield | C1(CC\C=C\CCCCCCCCCC1)=O | C15H26O
